* C:\Users\Adojang\Desktop\E344\LTSpice\Assignment 3\E344_A3_temp.asc
V1 Vtempsensor 0 PWL file=TempSensorPWL.csv
V4 N009 0 9
R_Sense 9V N009 0.010
XU1 9V 0 5V LM7805
XU2 N002 Vtempoutadc N001 N003 Vtempoutadc TLC2272 TLC2272
XU3 N002 N004 N005 N006 N004 TL081 TL081
R1 N007 PreAmp 13k
R2 N012 N014 10k
R3 LPF N007 416k
R4 N012 0 416k
R5 N014 5V 236.0641k
R6 0 N014 100k
R7 Vout LPF 120k
R8 N008 N010 100k
R9 PreAmp N008 100k
R10 N013 5V 313k
R11 0 N013 100k
R12 N011 N013 10k
C3 Vout 0 331n
C4 9V 0 0.33µ
C5 5V 0 0.1µ
XU4 N011 N008 5V 0 PreAmp TLC2272 TLC2272
XU5 N012 N007 5V 0 LPF TLC2272 TLC2272
.tran 0 {transtop} 0 {timestep}
.include A3tempcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vtempsensor" to your \n               conditioning circuit's input\n  * Connect "VtempoutADC" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nAJ van Wijk,  21786275\nVtempsensor for 0degC = 640 mV\ndelta Vtempsensor = 15 mV/degC\n=============================
* ==========================================================================================\nTemperature conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
* LPF with fc = 4Hz
* PreAmplifier
* DiffAmp with virtual GND
.lib LM78XX_RS.lib
.backanno
.end
