* C:\Users\Adojang\Desktop\E344\LTSpice\Assignment 3\E344_A3_temp.asc
V1 Vtempsensor 0 PWL file=TempSensorPWL.csv
V4 N003 0 9
R_Sense 9V N003 0.010
XU1 9V 0 5V LM7805
R1 N001 PreAmp 13k
R2 N005 N007 10k
R3 LPF N001 416k
R4 N005 0 416k
R5 N007 5V 236.0641k
R6 0 N007 100k
R7 Vtempoutadc LPF 120k
R8 N002 Vtempsensor 100k
R9 PreAmp N002 100k
R10 N006 5V 313k
R11 0 N006 100k
R12 N004 N006 10k
C3 Vtempoutadc 0 331n
C4 9V 0 0.33µ
C5 5V 0 0.1µ
XU4 N004 N002 5V 0 PreAmp TLC2272 TLC2272
XU5 N005 N001 5V 0 LPF TLC2272 TLC2272
.tran 0 {transtop} 0 {timestep}
.include A3tempcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vtempsensor" to your \n               conditioning circuit's input\n  * Connect "VtempoutADC" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nAJ van Wijk,  21786275\nVtempsensor for 0degC = 640 mV\ndelta Vtempsensor = 15 mV/degC\n=============================
* ==========================================================================================\nTemperature conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
* LPF with fc = 4Hz
* PreAmplifier
* DiffAmp with virtual GND
.lib LM78XX_RS.lib
.backanno
.end
